US08309579B2
Step c) Formation of N-(benzyloxy)-N-((2S)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-4-methylpentyl)formamide
To a solution of (2S)—N-(benzyloxy)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-4-methylpentan-1-amine (122 mg; 0.29 mmol; 1.0 eq.) and triethylamine (123 μL; 0.86 mmol; 3.0 eq.) in THF (2 mL) was added formic acetic anhydride (63 mg, 0.72 mmol, 2.5 eq., prepared as described in Krimen et al., in Organic Syntheses Coll. Vol 6, p 8. The solution was stirred for 4.5 h at room temperature. The solvents were evaporated and the residue purified by column chromatography (Silicagel, 1/1 EtOAc/c-Hex) to give the title product as a colorless oil (105 mg, 81%). HPLC, Rt: 3.17 min (purity: 100%). M+ (LC-MS (ESI)): 454.4.

reactant | (2S)—N-(benzyloxy)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-4-methylpentan-1-amine | 0.29 mmol, 122 mg, 1.0 eq. | C(C1=CC=CC=C1)ONC[C@H](CC(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C25H35N3O3
reactant | triethylamine | 0.86 mmol, 123 μL, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | formic acetic anhydride | C(C)(=O)OC=O | C3H4O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(benzyloxy)-N-((2S)-2-{[4-(4-methoxyphenyl)piperazin-1-yl]carbonyl}-4-methylpentyl)formamide | 105 mg, 81% | C(C1=CC=CC=C1)ON(C=O)C[C@H](CC(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C26H35N3O4
